US04957912
Into 35 ml of glacial acetic acid at 60°-70° C. is dropped slowly 12.4 g. (0.1 mole) of 1-diazo-5-hexen-2-one. After the nitrogen evolution stops, the reaction mixture is heated to reflux for one hour. The resulting mixture is extracted with 3×50 ml of methylene chloride. The organic layer is dried over anhydrous magnesium sulfate. Concentration of the filtrate gives 1-acetoxy-5-hexen-2-one as a brown oil in 90% yield, based on the starting 4-pentenoyl chloride.

reactant | 1-diazo-5-hexen-2-one | 0.1 mole | [N+](=[N-])=CC(CCC=C)=O | C6H8N2O
reactant | acetic acid | 35 ml | C(C)(=O)O | C2H4O2
product | 1-acetoxy-5-hexen-2-one | 90% yield | C(C)(=O)OCC(CCC=C)=O | C8H12O3
